US06903126B2
6-[[2-(Piperidin-1-yl)-1-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester
100 mg of 6-[[2-chloro-1-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester was dissolved in 2.5 ml of piperidine, and the mixture was stirred for 5 hours at 100° C. It was concentrated by evaporation to a very large extent in a vacuum, mixed with water, extracted with ethyl acetate, the organic phase was dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was purified by column chromatography on silica gel. 30 mg was obtained.

reactant | 6-[[2-chloro-1-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | 100 mg | COC(CCCCCOC=1C=CC2=C(N(C(=N2)Cl)C2=CC=CC=C2)C1)=O | C20H21ClN2O3
reactant | piperidine | 2.5 ml | N1CCCCC1 | C5H11N
product | 6-[[2-(Piperidin-1-yl)-1-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C=CC2=C(N(C(=N2)N2CCCCC2)C2=CC=CC=C2)C1)=O | C25H31N3O3
